US09079911B2
Alternately, acid (XXXa) is prepared by first converting 2-fluoro-6-iodobenzoic acid to the acid chloride by reaction with a chlorinating agent such as oxalyl chloride, in a solvent such as DCM, with a catalytic amount of DMF, at a temperature of 0° C. Subsequent reaction of the acid chloride with N-hydroxyacetamide in a solvent such as CH2Cl2 provides (Z)—N′-((2-fluoro-6-iodobenzoyl)oxy)acetimidamide. 5-(2-Fluoro-6-iodophenyl)-3-methyl-1,2,4-oxadiazole is prepared by reacting (Z)—N′-((2-fluoro-6-iodobenzoyl)oxy)acetimidamide with sodium acetate, in a solvent such as tert-butanol, at temperatures ranging from 100° C. to 110° C. 3-Fluoro-2-(3-methyl-1,2,4-oxadiazol-5-yl)benzoic acid (XXXa) is prepared by reacting 5-(2-fluoro-6-iodophenyl)-3-methyl-1,2,4-oxadiazole with a grignard reagent such as i-PrMgCl, in a suitable solvent such as THF and the like, at a temperature of −78° C. Subsequent addition of CO2 gas, at a temperature of −78° C. provides 3-fluoro-2-(3-methyl-1,2,4-oxadiazol-5-yl)benzoic acid (XXXa).

reactant | 2-fluoro-6-iodobenzoic acid | FC1=C(C(=O)O)C(=CC=C1)I | C7H4FIO2
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-hydroxyacetamide | ONC(C)=O | C2H5NO2
reactant | DMF | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (Z)—N′-((2-fluoro-6-iodobenzoyl)oxy)acetimidamide | FC1=C(C(=O)O\N=C(\C)/N)C(=CC=C1)I | C9H8FIN2O2
